US06451810B1
Using the general method of Example 1, 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.8 mmol) was reacted with benzoyl chloride (0.26 g, 1.8mmol) to provide N1-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide as a solid, m.p. 164-170° C. 1H NMR (500 MHz, DMSO-d6) δ8.47 (t, J=6.0 Hz, 1H), 8.01 (d, J=8.0 Hz, 1H), 7.78 (d, J=8.0 Hz, 2H), 7.59 (dd, J=8.0, 1.2 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.43 (t, J=8.0 Hz, 2H), 7.38 (dt, J=8.0, 1.2 Hz, 1H), 7.17 (dt, J=8.0, 1.2 Hz, 1H), 6.48 (broad s, 2H), 4.53 (t, J=7.0 Hz, 2H), 3.31 (q, J=6.0 Hz, 2H), 2.60 (s, 3H), 1.88 (quintet, J=7.0 Hz, 2H), 1.68 (quintet, J=7.0 Hz, 2H); MS (EI) m/e 373.1903 (373.1903 calcd for C22H23N5O)

reactant | 1-(4-aminobutyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.8 mmol, 0.5 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C15H19N5
reactant | benzoyl chloride | 1.8mmol, 0.26 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N1-[4-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]benzamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(C2=CC=CC=C2)=O)C | C22H23N5O
